US08349870B2
Step A: 2-chloro-1-[4,5-dihydro-5-(2-fluorophenyl)-3-isoxazolyl]ethanone
To a suspension of 2-fluorostyrene (2.78 g, 22.8 mmol) and sodium bicarbonate (2.88 g, 34.2 mmol) in anhydrous toluene (15 mL) heated at 55° C. was added 3-chloro-N-hydroxy-2-oxo-propanimidoyl chloride (1.78 g, 11.4 mmol). After 2 h at 55° C., the reaction mixture was cooled, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel using 10% ethyl acetate in hexanes as eluant to provide the title compound as a yellow solid (2.35 g) melting at 42-44° C.

reactant | 2-fluorostyrene | 22.8 mmol, 2.78 g | FC1=C(C=C)C=CC=C1 | C8H7F
reactant | sodium bicarbonate | 34.2 mmol, 2.88 g | C([O-])(O)=O.[Na+]
reactant | 3-chloro-N-hydroxy-2-oxo-propanimidoyl chloride | 11.4 mmol, 1.78 g | ClCC(C(=NO)Cl)=O | C3H3Cl2NO2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-1-[4,5-dihydro-5-(2-fluorophenyl)-3-isoxazolyl]ethanone | 2.35 g | ClCC(=O)C1=NOC(C1)C1=C(C=CC=C1)F | C11H9ClFNO2
